US04550107
trans-5,11-Dihydro-11-[[2-[[(4-hydroxycyclohexyl)-(methyl)-amino]methyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one
The title compound is prepared analogously to Example 2 from 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and trans-2-[[(4-hydroxycyclohexyl)(methyl)-amino]methyl]piperidine to give colorless crystals, mp. 183°-184.5° C. (acetonitrile).

reactant | 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | trans-2-[[(4-hydroxycyclohexyl)(methyl)-amino]methyl]piperidine | O[C@@H]1CC[C@H](CC1)N(C)CC1NCCCC1 | C13H26N2O
solvent | acetonitrile | C(C)#N | C2H3N
product | trans-5,11-Dihydro-11-[[2-[[(4-hydroxycyclohexyl)-(methyl)-amino]methyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one | O[C@@H]1CC[C@H](CC1)N(C)CC1N(CCCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C27H35N5O3
